US03971787
4-(7-Chloro-4-quinolylamino)-N-(4-dimethylaminobutyl)-N-propyl-benzamide
4-(7-Chloro-4-quinolylamino)benzoyl chloride hydrochloride is reacted with 1 -dimethylamino-4-propylaminobutane in a similar manner to Example 1 to give the title compound.

reactant | 4-(7-Chloro-4-quinolylamino)benzoyl chloride hydrochloride | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)Cl)C=C1
reactant | 1 -dimethylamino-4-propylaminobutane | CN(CCCCNCCC)C | C9H22N2
product | 4-(7-Chloro-4-quinolylamino)-N-(4-dimethylaminobutyl)-N-propyl-benzamide | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N(CCC)CCCCN(C)C)C=C1 | C25H31ClN4O
